US04673686
5.8 g of 2-methoxy-5-sulphamoyl benzoic acid, 50 ml of acetone, 10 ml of water and 3.6 ml of triethylamine (density 0.726) are placed in a 250 ml flask fitted with an agitator, a thermometer and a dropping funnel. The solution is cooled to about +10° C., then 3.6 g of isobutyl chloroformate is added drop by drop. The medium is reacted for 30 minutes at 0° C., after which 4.5 g of 1-cyclopropylmethyl-2-aminomethyl-pyrrolidine is poured in drop by drop. The medium is reacted for 1 hour at room temperature, 50 ml of water is added and the acetone is evaporated under vacuum. The reaction medium is further diluted with 50 ml of water and made alkaline with 10 ml of ammonia (density 0.91). The viscous product which is precipitated crystallises slowly. The solid is filtered off, washed with water and re-crystallised in 50 ml of ethanol. 3.8 g 841%) of benzamide is obtained, melting at 177° C.

reactant | 2-methoxy-5-sulphamoyl benzoic acid | 5.8 g | COC1=C(C(=O)O)C=C(C=C1)S(N)(=O)=O | C8H9NO5S
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | isobutyl chloroformate | 3.6 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-cyclopropylmethyl-2-aminomethyl-pyrrolidine | 4.5 g | C1(CC1)CN1C(CCC1)CN | C9H18N2
solvent | water | 50 ml | O | H2O
solvent | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
solvent | water | 10 ml | O | H2O
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
